US06365753B1
Isopropyl 2-Chloro-3-(2-chloro-4-fluoro-5-phthalimidophenyl)propionate
In 10 ml of dichloromethane were dissolved 0.18 g of 2-propanol and 0.25 g of triethylamine, and a solution of 1.00 g of 2-chloro-3-(2-chloro-4-fluoro-5-phthalimidophenyl)propionyl chloride prepared by the process described in Example 4 in 15 ml of dichloromethane was slowly added thereto dropwise under stirring. After the dropwise addition, the stirring was continued at room temperature for 1 hour. The reaction mixture was washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate-hexane=1:8) to give 0.73 g of the title compound (No. 7 of Table 1).

reactant | 2-propanol | 0.18 g | CC(C)O | C3H8O
reactant | triethylamine | 0.25 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-(2-chloro-4-fluoro-5-phthalimidophenyl)propionyl chloride | 1.00 g | ClC(C(=O)Cl)CC1=C(C=C(C(=C1)N1C(C=2C(C1=O)=CC=CC2)=O)F)Cl | C17H9Cl3FNO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Isopropyl 2-Chloro-3-(2-chloro-4-fluoro-5-phthalimidophenyl)propionate | 0.73 g | ClC(C(=O)OC(C)C)CC1=C(C=C(C(=C1)N1C(C=2C(C1=O)=CC=CC2)=O)F)Cl | C20H16Cl2FNO4
